US08183380B2
rac-2-Methoxy-N-[2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-6-yl]-acetamide
The title compound was prepared in accordance with the general method 14 described in example 119 from rac-N2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,6-diamine and methoxyacetic acid; MS: m/e=392.3 (M+H+).

reactant | rac-N2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,6-diamine | COC=1C=CC=C2CCCC(C12)NC1=NC2=CC=C(C=C2C=C1)N | C20H21N3O
reactant | methoxyacetic acid | COCC(=O)O | C3H6O3
product | rac-2-Methoxy-N-[2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-6-yl]-acetamide | COCC(=O)NC=1C=C2C=CC(=NC2=CC1)NC1CCCC2=CC=CC(=C12)OC | C23H25N3O3
